US07223871B2
1.62 g of 2-bromo-1-(2-ethyl-5-fluoro-indan-2-yl)-ethanone was dissolved in 25 ml of ethanol in a glass round-bottomed flask equipped with a mechanical stirrer, a thermometer and a dropping funnel. The reaction mixture was heated to reflux temperature while stirring. 0.366 g of benzylamine dissolved in 5 ml ethanol was added slowly in a drop-wise fashion to the solution. After the addition of benzylamine the mixture was refluxed for one hour. 0.330 g of potassium thiocyanate was added portionwise during 30 minutes and the reaction mixture was refluxed for 2 hours. The reaction mixture was evaporated to dryness before 150 ml ethyl acetate was added and the solution was washed with water. The organic phase was dried over Na2SO4, filtered and evaporated providing 1.13 g of 1-benzyl-5-(2-ethyl-5-fluro-indan-2-yl)-imidazole-2-thiol (yield 31%). The analytical sample was purified using TLC-plates. The purity was measured by HPLC: 62%. Normally the crude product was used in the following step.

reactant | 2-bromo-1-(2-ethyl-5-fluoro-indan-2-yl)-ethanone | 1.62 g | BrCC(=O)C1(CC2=CC=C(C=C2C1)F)CC | C13H14BrFO
reactant | benzylamine | 0.366 g | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium thiocyanate | 0.330 g | [S-]C#N.[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-benzyl-5-(2-ethyl-5-fluro-indan-2-yl)-imidazole-2-thiol | 1.13 g, yield 31% | C(C1=CC=CC=C1)N1C(=NC=C1C1(CC2=CC=C(C=C2C1)F)CC)S | C21H21FN2S
